### PR TITLE
feat: add `BitVec.toFin_(sdiv, smod, srem)` and `BitVec.toNat_srem`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds `BitVec.toFin_(sdiv, smod, srem)` and `BitVec.toNat_srem`. The strategy for the `rhs` of the `toFin_*` lemmas is to consider what the corresponding `toNat_*` theorems do and push the `toFin` closerto the operands. For the `rhs` of `BitVec.toNat_srem` I used the same strategy as `BitVec.toNat_smod`.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3120,7 +3120,7 @@ theorem cons_append_append (x : BitVec w₁) (y : BitVec w₂) (z : BitVec w₃)
       by_cases h₂ : i - w₃ < w₂
       · simp [h₂]
       · simp [h₂, show i - w₃ - w₂ < w₁ by omega]
-  · simp only [show ¬i - w₃ - w₂ < w₁ by omega, 
+  · simp only [show ¬i - w₃ - w₂ < w₁ by omega,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp only [show ¬i - w₃ - w₂ < w₁ by omega, 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1001,7 +1001,7 @@ theorem setWidth_one_eq_ofBool_getLsb_zero (x : BitVec w) :
 theorem setWidth_ofNat_one_eq_ofNat_one_of_lt {v w : Nat} (hv : 0 < v) :
     (BitVec.ofNat v 1).setWidth w = BitVec.ofNat w 1 := by
   ext i h
-  simp only [getElem_setWidth, getLsbD_ofNat, 
+  simp only [getElem_setWidth, getLsbD_ofNat,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp only [getElem_setWidth, getLsbD_ofNat, 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2276,7 +2276,7 @@ theorem sshiftRight_add {x : BitVec w} {m n : Nat} :
 theorem not_sshiftRight {b : BitVec w} :
     ~~~b.sshiftRight n = (~~~b).sshiftRight n := by
   ext i
-  simp only [getElem_not, getElem_sshiftRight, 
+  simp only [getElem_not, getElem_sshiftRight,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp only [getElem_not, getElem_sshiftRight, 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2453,7 +2453,7 @@ theorem signExtend_eq_setWidth_of_msb_false {x : BitVec w} {v : Nat} (hmsb : x.m
     x.signExtend v = x.setWidth v := by
   ext i
   by_cases hv : i < v
-  · simp only [signExtend, getLsbD, getElem_setWidth, 
+  · simp only [signExtend, getLsbD, getElem_setWidth,
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp only [signExtend, getLsbD, getElem_setWidth, 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp only [getElem_setWidth, getLsbD_ofNat, 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp only [getElem_not, getElem_sshiftRight, 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp only [signExtend, getLsbD, getElem_setWidth, 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp only [show ¬i - w₃ - w₂ < w₁ by omega, 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -4469,6 +4496,19 @@ theorem toNat_smod {x y : BitVec w} : (x.smod y).toNat =
...
 
+theorem toFin_smod {x y : BitVec w} : (x.smod y).toFin =
+    match x.msb, y.msb with
+    | false, false => x.toFin % y.toFin
+    | false, true => if x % -y = 0#w then 0 else (x % -y + y).toFin
+    | true, false => if -x % y = 0#w then 0 else (y - -x % y).toFin
+    | true, true => (-(-x % -y)).toFin := by
+  simp only [smod_eq]
+  by_cases hx : x.msb <;> by_cases hy : y.msb
+  · simp  [hx, hy]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp [hx, hy]
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp only [getElem_setWidth, getLsbD_ofNat, 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp only [getElem_not, getElem_sshiftRight, 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp only [signExtend, getLsbD, getElem_setWidth, 
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp only [show ¬i - w₃ - w₂ < w₁ by omega, 
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -4469,6 +4496,19 @@ theorem toNat_smod {x y : BitVec w} : (x.smod y).toNat =
...
+    | false, false => x.toFin % y.toFin
+    | false, true => if x % -y = 0#w then 0 else x.toFin % (-y).toFin + y.toFin
+    | true, false => if -x % y = 0#w then 0 else y.toFin - (-x).toFin % y.toFin
+    | true, true => (-(-x % -y)).toFin := by
+  simp only [smod_eq]
+  by_cases hx : x.msb <;> by_cases hy : y.msb
+  · simp [hx, hy]
+  · by_cases hzero : -x % y = 0#w <;> simp [hx, hy, hzero]
+  · by_cases hzero : x % -y = 0#w <;> simp [hx, hy, hzero]
+  · simp  [hx, hy]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  · simp [hx, hy]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -4469,6 +4496,19 @@ theorem toNat_smod {x y : BitVec w} : (x.smod y).toNat =
   <;> simp only [umod, toNat_eq, toNat_ofNatLT, toNat_ofNat, Nat.zero_mod] at h'' h'''
   <;> simp
 
+theorem toFin_smod {x y : BitVec w} : (x.smod y).toFin =
+    match x.msb, y.msb with
+    | false, false => x.toFin % y.toFin
+    | false, true => if x % -y = 0#w then 0 else x.toFin % (-y).toFin + y.toFin
+    | true, false => if -x % y = 0#w then 0 else y.toFin - (-x).toFin % y.toFin
+    | true, true => (-(-x % -y)).toFin := by
+  simp only [smod_eq]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```lean
theorem toFin_smod {x y : BitVec w} : (x.smod y).toFin =
    ...
    | false, true => if x % -y = 0#w then 0 else x.toFin % (-y).toFin + y.toFin
    | true, false => if -x % y = 0#w then 0 else y.toFin - (-x).toFin % y.toFin
```

Is there a nicer characterization available for these two cases? I have not thought about this, but I would hope that there is a "uniform" statement, (a) without a case split, and (b) without the mixture of `%` on `bitvec % bitvec` (from `x % -y`) and `Fin % Fin` (from `x.toFin % (-y).toFin`)

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-06-24` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-24 10:43:04)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ddbba944d42a1479ec9e4f350b9a270b008c01f0 --onto db499e96aac8ad654c8ed5ab40c4e6885d38c9a1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-24 16:15:39)

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: @bollu I updated the rhs, please let me know what you think. I don't think we can avoid the case split, unless we have a further (and uglier, imho) case split on `dvd` (meaning `x%-y` and `-x%y` become irrelevant)
